US04727067
7.3 g of 2-(2,3-epoxypropoxy)benzonitrile are added to a solution of 6.7 g of 5-(4-aminobutyl)salicylamide in 60 ml of dimethyl sulphoxide and the mixture is stirred for 1 hour in a bath at 90°. The reaction mixture is poured into 300 ml of water and extracted twice with 200 ml of ethyl acetate each time. Working up analogously to Example 23 yields crude 1-[4-(3-carbamoyl-4-hydroxyphenoxy)butylamino]-3-(2-cyanophenoxy)propan-2-ol as a viscous oil, the IR- and 1H-NMR-spectra of which are in concordance with the assumed structure and the Rf-value of which is 0,51 according to thin-layer chromatography on silicagel using a mixture of ethylacetate-ethanol-conc. ammonia 24:12:4 as the eluent.

reactant | 2-(2,3-epoxypropoxy)benzonitrile | 7.3 g | O1C(COC2=C(C#N)C=CC=C2)C1 | C10H9NO2
reactant | 5-(4-aminobutyl)salicylamide | 6.7 g | NCCCCC1=CC=C(C(C(=O)N)=C1)O | C11H16N2O2
reactant | water | 300 ml | O | H2O
solvent | dimethyl sulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 1-[4-(3-carbamoyl-4-hydroxyphenoxy)butylamino]-3-(2-cyanophenoxy)propan-2-ol | C(N)(=O)C=1C=C(OCCCCNCC(COC2=C(C=CC=C2)C#N)O)C=CC1O | C21H25N3O5
